US06872718B1
4,7-Dimethyl-5-methoxy-1,3-dihydro-2H-indol-2-one
To a solution of 4,7-dimethyl-5-methoxy-3-(methylthio)-1,3-dihydro-2H-indol-2-one (17.8 g, 75 mmol) in dichloromethane (350 ml) were added triphenylphosphine (23.6 g, 90 mmol) and toluenesulfonic acid monohydrate (17.1 g, 90 mmol) at room temperature and stirred for 3 hours. The reaction mixture was poured into a cold water, and the precipitated crystals were collected by filtration. After washing with dichloromethane and water, 12.4 g of the title compound was obtained.

reactant | 4,7-dimethyl-5-methoxy-3-(methylthio)-1,3-dihydro-2H-indol-2-one | 75 mmol, 17.8 g | CC1=C2C(C(NC2=C(C=C1OC)C)=O)SC | C12H15NO2S
reactant | triphenylphosphine | 90 mmol, 23.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluenesulfonic acid monohydrate | 90 mmol, 17.1 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 4,7-Dimethyl-5-methoxy-1,3-dihydro-2H-indol-2-one | 12.4 g, Yield: 87% | CC1=C2CC(NC2=C(C=C1OC)C)=O | C11H13NO2
